US08633173B2
{3-[1-(2-Methanesulfonyl-ethyl)-piperidin-4-yl]-phenyl}-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperidin-4-yl-phenyl)-amine and 1-chloro-2-methanesulfonyl-ethane (75.0 mg, 0.526 mmol) in a manner analogous to Example 183. Product isolated as a pale yellow solid (0.164 g, 65%). MP=217-219° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (d, J=6.5 Hz, 1H), 8.27 (d, J=7.7 Hz, 2H), 8.09 (d, J=7.5 Hz, 2H), 7.68 (d, J=7.0 Hz, 1H), 7.63 (s, 1H), 7.36-7.27 (m, 2H), 7.04 (t, J=6.5 Hz, 1H), 6.90-6.85 (m, 2H), 3.24 (t, J=6.5 Hz, 2H), 3.12-3.05 (m, 8H), 2.94 (t, J=6.7 Hz, 2H), 2.62-2.52 (m, 1H), 2.25-2.16 (m, 2H), 1.98-1.90 (m, 2H), 1.85-1.72 (m, 2H). MS=554 (MH)+.

reactant | [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperidin-4-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)C2CCNCC2 | C24H25N5O2S
reactant | 1-chloro-2-methanesulfonyl-ethane | 0.526 mmol, 75.0 mg | ClCCS(=O)(=O)C | C3H7ClO2S
product | {3-[1-(2-Methanesulfonyl-ethyl)-piperidin-4-yl]-phenyl}-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | CS(=O)(=O)CCN1CCC(CC1)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C27H31N5O4S2
